US07338959B2
[4-(4-{[2-(3-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-chloro-pyrimidin-4-yl)-N2-(3-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (99 mg, 0.25 mmol) and (4-amino-phenyl)-methanesulfonamide (46 mg, 0.25 mmol) as a white solid (111 mg, 76%). 1H NMR (300 MHz, dG-DMSO+NaHCO3) δ 10.03 (br s, 2H), 9.37 (br s, 1H), 7.87 (d, J=6.6 Hz, 1H), 7.54-7.64 (m, 2H), 7.32-7.44 (m, 3H), 7.19-7.24 (M, 3H), 7.08-7.14 (M, 1H), 6.81 (s, 2H), 5.82 (d, J=6.0 Hz, 1H), 4.76 (d, J=5.7 Hz, 2H), 4.18 (s, 2H), 3.72 (s, 3H), 3.47 (s, 3H). MS (ESI) m/z=547 [M+H].

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(3-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 99 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC(=CC=C2)F)C)C=C1)C | C20H18ClFN6
reactant | (4-amino-phenyl)-methanesulfonamide | 0.25 mmol, 46 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | [4-(4-{[2-(3-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride | Cl.FC=1C=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC3=CC=C(C=C3)CS(=O)(=O)N)C)C=CC1 | InChI=1S/C27H27FN8O2S.ClH/c1-35(25-12-13-30-26(34-25)32-21-8-6-18(7-9-21)17-39(29,37)38)22-10-11-24-23(15-22)33-27(36(24)2)31-16-19-4-3-5-20(28)14-19;/h3-15H,16-17H2,1-2H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
